US07989457B2
Step B. 1-(3-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-ethanone
To an ambient temperature solution of trifluoro-methanesulfonic acid 4-acetyl-3-methyl-phenyl ester (6.10 g, 21.61 mmol) in dioxane/water (150/30 mL) is added 4-(trifluoromethyl)phenylboronic acid (4.51 g, 23.77 mmol), potassium carbonate (4.48 g, 32.42 mmol) and the reaction mixture is degassed with nitrogen for 20 min. Tetrakis(triphenylphosphine)palladium (1.25 g, 1.08 mmol) is added and the reaction mixture is heated to 80° C. overnight. TLC (10% EtOAc/hexane) indicates complete consumption of starting material. The reaction mixture is concentrated and chromatographed (330 g SiO2, 5% EtOAc/Hexanes) to yield the title compound (5.77 g, 96%). 1NMR (400 MHz, CDCl3) δ ppm: 7.82 (d, 1H, J=7.9 Hz), 7.72 (s, 4H), 7.51-7.46 (m, 2H), 2.63 (s, 3H), 2.62 (s, 3H).

reactant | trifluoro-methanesulfonic acid 4-acetyl-3-methyl-phenyl ester | 21.61 mmol, 6.10 g | C(C)(=O)C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C10H9F3O4S
reactant | 4-(trifluoromethyl)phenylboronic acid | 23.77 mmol, 4.51 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 32.42 mmol, 4.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | dioxane water | 30 mL | O1CCOCC1.O
catalyst | Tetrakis(triphenylphosphine)palladium | 1.08 mmol, 1.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-ethanone | 5.77 g, 96% | CC=1C=C(C=CC1C(C)=O)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O
